US06495546B1
Under nitrogen, a solution of 3-oxiranylpyridine (1.9 g) and N-benzyl-(3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine (3.3 9) in ethanol (15 ml) was refluxed for 5 hours. After removal of ethanol in vacuo, the residue was dissolved into a mixture of aqueous sodium hydrogencarbonate and ethyl acetate. After separation, the organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (chloroform:methanol=20:1) to give 2-[N-benzyl-N-(3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl) amino]-1-(pyridin-3-yl)ethanol (520 mg).

reactant | 3-oxiranylpyridine | 1.9 g | O1C(C1)C=1C=NC=CC1 | C7H7NO
reactant | N-benzyl-(3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine | C(C1=CC=CC=C1)NC1CC2=C(CCC1)C=CC(=C2)OC | C19H23NO
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-[N-benzyl-N-(3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl) amino]-1-(pyridin-3-yl)ethanol | 520 mg | C(C1=CC=CC=C1)N(C1CC2=C(CCC1)C=CC(=C2)OC)CC(O)C=2C=NC=CC2 | C26H30N2O2
